US06133303
6-[2-(1H-Imidazole-4-yl )-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride
6-Hydroxytetralone (1.46 g, 9.01 mmol) was dissolved in a mixture of 15 mL AcCN and 8 mLDMF, and solid potassium carbonate (4.98 g, 36 mmol) was added followed by a solution of 4-(2-bromoethyl)-1H-imidazole hydrobromide (2.05 g, 8.01 mmol) in a mixture of 15 mL AcCN and 3 mL DMF. After stirring for 24 hours at room temperature, the reaction was concentrated in vacuo to remove the solvents, and the resulting residue was diluted with water and extracted into EtOAc. The pooled organics were washed sequentially with a saturated solution of NaHCO3, water, and brine and concentrated in vacuo to afford 1.57 g of crude product. Purification by flash chromatography (silica gel, 235 g, 5% MeOH in DCM) gave a yellow oil. The oil was taken up in 7 mL DCM, and the product was precipitated as a salt by the addition of 1.5 mL of 8N HCl in iPrOH. The solid was collected, washed with iPrOH, triterated with Et2O, and dried in vacuo to afford 0.826 g (33%) of the title compound;

reactant | 6-Hydroxytetralone | 9.01 mmol, 1.46 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | potassium carbonate | 36 mmol, 4.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-bromoethyl)-1H-imidazole hydrobromide | 8.01 mmol, 2.05 g | Br.BrCCC=1N=CNC1
reactant | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | AcCN | 15 mL | C(=O)(C)C#N | C3H3NO
solvent | AcCN | 15 mL | C(=O)(C)C#N | C3H3NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-[2-(1H-Imidazole-4-yl )-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride | 0.826 g, 33% | Cl.N1C=NC(=C1)CCOC=1C=C2CCCC(C2=CC1)=O | InChI=1S/C15H16N2O2.ClH/c18-15-3-1-2-11-8-13(4-5-14(11)15)19-7-6-12-9-16-10-17-12;/h4-5,8-10H,1-3,6-7H2,(H,16,17);1H
